US07919468B2
N-Boc-Tyr(Bn)-Leu-Trp-NH(CH2)4NHBoc:
compound SP296P. Same procedure as above with Trp-NH(CH2)4NHBoc (264.7 mg, 0.706 mmol), N-Boc-Tyr(Bn)-Leu-OH (342.6 mg, 0.707 mmol), EDC (150.3 mg, 0.784 mmol), HOBt (105.3 mg, 0.78 mmol) and NEt3 (0.39 mL, 2.8 mmol) in CH2Cl2/DMF (3 mL, 1/1). The crude residue was triturated with Et2O/pentane to give a white solid (196.7 mg, 33%). 1H NMR (300 MHz, DMSO-d6) δ 0.82 (d, J=6.2 Hz, 3H, CH3 Leu), 0.86 (d, S=6.2 Hz, 3H, CH3 Leu), 1.25-1.41 (m, 4H, 2 CH2 putrescine), 1.29 (s, 9H, (CH3)3), 1.36 (s, 9H, (CH3)3), 2.59-3.1 (m, 8H, CH2 Tyr, CH2 Trp, 2 CH2 putrescine), 4.09 (m, 1H, CHα), 4.32 (m, 1H, CHα), 4.44 (m, 1H, CHα), 5.02 (s, 2H, CH2 (Bn)), 6.71 (m, 1H), 6.87-7.4 (m, 14 aromatic H), 7.54 (d, J=7.7 Hz, 1H), 7.79 (m, 1H), 7.94 (m, 2H), 10.8 (s, 1NH). 13C NMR (75 MHz, DMSO-d6) δ 20.3, 21.8, 22.7 (2 CH3, CH Leu), 24.9, 25.5 (2 CH2 putrescine), 26.7 (CH2 Trp), 26.9, 27 (2 (CH3)3), 34.9 (CH2 Tyr), 37, 39.2, 39.7 (2 CH2 putrescine, CH2 Leu), 49.8, 52.2, 54.6 (CHα Ala, Tyr, Trp), 67.8 (CH2 (Bn)), 76, 76.8 (2 C(CH3)3), 108.6, 109.9, 113, 116.9, 117.1, 119.5, 122.1, 126.1, 126.3, 126.5, 127.1, 128.9, 129.1, 134.7, 136 (19 aromatic C), 154, 154.3, 155.6 (Car-O, 2 CO carbamate), 169.5, 170.3, 170.4 (3 CO amide). Anal. Calcd. for C47H64N6O8, 0.5H2O: C, 66.40; H, 7.70; N, 9.88. Found: C, 66.34; H, 7.67; N, 10.07.

reactant | Trp-NH(CH2)4NHBoc | 0.706 mmol, 264.7 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C | C20H30N4O3
reactant | N-Boc-Tyr(Bn)-Leu-OH | 0.707 mmol, 342.6 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C27H36N2O6
reactant | EDC | 0.784 mmol, 150.3 mg
reactant | HOBt | 0.78 mmol, 105.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NEt3 | 2.8 mmol, 0.39 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 DMF | 3 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Leu-Trp-NH(CH2)4NHBoc | 196.7 mg, 33% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C47H64N6O8
